US09422331B2
To a 0° C. solution of tert-butyl(3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (364 mg, 774 μmol) in CH2Cl2 (7.74 ml) was added pyridine (306 mg, 315 μl, 3.87 mmol), followed by acetyl chloride (71.8 μl, 1.01 mmol), dropwise. The reaction was stirred at 0° C. for 1 h, then allowed to warm to rt and stirred for an additional 15 h, then quenched by the addition of H2O and extracted with CH2Cl2. The combined organic layers were washed with sat. aq. NaHCO3 and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (235 mg, 59%) as a white solid. MS m/z 535 (MNa)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 774 μmol, 364 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | C28H30N4O3
reactant | pyridine | 3.87 mmol, 315 μl, 306 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.01 mmol, 71.8 μl | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 7.74 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl(3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 235 mg, 59% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC(OC(C)(C)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | C30H32N4O4
